US08710043B2
Step 8. (S)-5-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-6-hydroxynicotinamide
To a stirred mixture of ((S)-tert-butyl (5-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)-2-hydroxypyridin-3-yl)carbamate (600 mg, 0.0011 mol), in DCM (6 mL) was added TFA (1.2 mL, 0.143 mol, Aldrich). The resulting mixture was then stirred for 2 h at room temperature. After completion of the reaction (monitored by TLC, 30% EtOAc in hexane), the reaction mixture was quenched with sat'd NaHCO3 solution (50 mL) and extracted with EtOAc (50 mL×3). The combined organic layers were dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ: 9.78 (s., 1H), 9.00 (d, J=7.8 Hz, 1H), 8.44 (d, J=4.8 Hz, 1H), 8.13 (d, J=1.8 Hz, 1H), 7.79 (dd, J=1.2, 9.9 Hz, 1H), 7.60-7.43 (m, 3H), 7.35 (d, 8.7 Hz, 1H), 7.26 (d, J=1.8 Hz, 1H), 6.66 (d, J=7.8 Hz, 1H), 6.18 (br.s., 2H). MS (ESI, positive ion) m/z: 441.1 (M+H).

reactant | (S)-tert-butyl (5-(((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)carbamoyl)-2-hydroxypyridin-3-yl)carbamate | 0.0011 mol, 600 mg | FC=1C=C(C=CC1OC(F)(F)F)[C@@H](C1=NC=CC=C1F)NC(=O)C=1C=C(C(=NC1)O)NC(OC(C)(C)C)=O | C24H21F5N4O5
reactant | TFA | 0.143 mol, 1.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | (S)-5-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-6-hydroxynicotinamide | NC=1C(=NC=C(C(=O)N[C@H](C2=NC=CC=C2F)C2=CC(=C(C=C2)OC(F)(F)F)F)C1)O | C19H13F5N4O3
